US06794403B2
Step a) N-(2,5-Dimethoxyphenyl)-2,5-dimethoxybenzamide
A mixture of 2,5-dimethoxybenzoic acid (5.0 g, 27.5 mmol) and thionyl chloride (15 mL) was refluxed for 1 h. The volatiles were removed under vacuum. The residue was dissolved in THF (20 mL) and added into a cold (0° C.) solution of 2,5-dimethoxyaniline (4.6 g, 30.2 mmol), triethylamine (5 mL, 35.9 mmol) and THF (40 mL). The mixture was stirred for 30 min, poured into water, acidified with HCl (2N) and extracted with EtOAc. The organic extracts were dried over MgSO4. Evaporation and purification by flash chromatography (hexanes/EtOAc 2/1) gave a white solid (8.1 g, 93% yield, m.p. 121-123° C.); MS m/e 318 (M+H)+.

reactant | 2,5-dimethoxybenzoic acid | 27.5 mmol, 5.0 g | COC1=C(C(=O)O)C=C(C=C1)OC | C9H10O4
reactant | thionyl chloride | 15 mL | S(=O)(Cl)Cl | Cl2OS
reactant | 2,5-dimethoxyaniline | 30.2 mmol, 4.6 g | COC1=C(N)C=C(C=C1)OC | C8H11NO2
reactant | triethylamine | 35.9 mmol, 5 mL | C(C)N(CC)CC | C6H15N
reactant | HCl | 2N | Cl | ClH
solvent | water | O | H2O
solvent | THF | 40 mL | C1CCOC1 | C4H8O
product | N-(2,5-Dimethoxyphenyl)-2,5-dimethoxybenzamide | 8.1 g, 93% yield | COC1=C(C=C(C=C1)OC)NC(C1=C(C=CC(=C1)OC)OC)=O | C17H19NO5
